US07763731B2
3-(4-Chloro-2-nitro-phenoxy)-benzoic acid methyl ester
1-Bromo-4-chloro-2-nitro-benzene (7.00 g, 29.60 mmol) was dissolved in DMF to which K2CO3 (5.11 g, 37.01 mmol) and 3-Hydroxy-benzoic acid methyl ester (4.95 g, 32.57 mmol) were added. The reaction mixture was then heated to 100° C. for 2 h the reaction mixture was cooled to room temperature and diluted with water and extracted with ethyl acetate. Solvent dried over Na2SO4, filtered and concentrated under vacuum giving the title compound. (7.2 g, 79%)

reactant | 1-Bromo-4-chloro-2-nitro-benzene | 29.60 mmol, 7.00 g | BrC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3BrClNO2
reactant | K2CO3 | 37.01 mmol, 5.11 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-Hydroxy-benzoic acid methyl ester | 32.57 mmol, 4.95 g | COC(C1=CC(=CC=C1)O)=O | C8H8O3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(4-Chloro-2-nitro-phenoxy)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)OC1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C14H10ClNO5
